US08377975B2
196 mg of cyanogen bromide are added dropwise to a solution of 300 mg of 2-ethyl-4-hydroxy-3-methylbenzohydrazide in 50 ml of water, 130 mg of sodium hydrogencarbonate and 4 ml of DMF. A gas forms and a precipitate deposits. The latter is filtered off with suction and purified by column chromatography on silica gel, giving 40 mg of 4-(5-amino-1,3,4-oxadiazol-2-yl)-3-ethyl-2-methylphenol as colourless powder; MS-FAB (M+H+)=220; Rf (polar method): 1.43 min;

reactant | cyanogen bromide | 196 mg | N#CBr | CBrN
reactant | 2-ethyl-4-hydroxy-3-methylbenzohydrazide | 300 mg | C(C)C1=C(C(=O)NN)C=CC(=C1C)O | C10H14N2O2
reactant | sodium hydrogencarbonate | 130 mg | C(O)([O-])=O.[Na+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-(5-amino-1,3,4-oxadiazol-2-yl)-3-ethyl-2-methylphenol | 40 mg | NC1=NN=C(O1)C1=C(C(=C(C=C1)O)C)CC | C11H13N3O2
